US06080773
(S)-2-(1,2-Benzisoxazol-3-yl)-α-2-propenyl-benzenemethanamine hydrochloride
(S)-(-)-2-(6-chloro-1,2-benzisoxazol-3-yl)-a-2-propenyl-benzenemethanamine hydrochloride, melting at 169-178° C., a (c=0.9 in methanol) -7.8.

reactant | (S)-(-)-2-(6-chloro-1,2-benzisoxazol-3-yl)-a-2-propenyl-benzenemethanamine hydrochloride | Cl.ClC1=CC2=C(C(=NO2)C2=C(C=CC=C2)[C@@H](N)CC=C)C=C1
solvent | methanol | CO | CH4O
product | (S)-2-(1,2-Benzisoxazol-3-yl)-α-2-propenyl-benzenemethanamine hydrochloride | Cl.O1N=C(C2=C1C=CC=C2)C2=C(C=CC=C2)[C@@H](N)CC=C | InChI=1S/C17H16N2O.ClH/c1-2-7-15(18)12-8-3-4-9-13(12)17-14-10-5-6-11-16(14)20-19-17;/h2-6,8-11,15H,1,7,18H2;1H/t15-;/m0./s1
